US07060827B2
In a manner similar to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 4-ethylaniline were reacted to yield N4-(3,4-ethylenedioxyphenyl)-N2-(4-ethylphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.87 (bs, 1H), 7.42 (d, 2H, J=8.7 Hz), 7.26 (d, 1H, J=3.0 Hz), 7.13–7.08 (m, 3H), 6.95 (dd, 1H, J=2.4 and 8.7 Hz), 6.82 (d, 1H, J=9.0 Hz), 6.60 (bs, 1H), 4.23 (s, 4H), 2.59 (q, 2H, J=7.5 Hz), 1.20 (t, 3H, J=7.5 Hz); 19F NMR (CDCl3): −47549; LCMS: ret. time: 25.31min.; purity: 99%; MS (m/e): 367 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-ethylaniline | C(C)C1=CC=C(N)C=C1 | C8H11N
product | N4-(3,4-ethylenedioxyphenyl)-N2-(4-ethylphenyl)-5-fluoro-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)CC | C20H19FN4O2
